US03985888
Following the procedure noted in Example 5, 38.6 grams (0.15 M) of 2,3-dihydro-6-methylspiro-[naphthalene-1(4H),3'-piperidine]-2',4,6'-trione was methylated to give 32.5 grams (80%) of 1',6-dimethyl-2,3-dihydrospiro-[naphthalene-1(4H),3'-piperidine]-2',4,6'-trione, melting point 146°-147.5° C. from isopropyl alcohol.

reactant | 2,3-dihydro-6-methylspiro-[naphthalene-1(4H),3'-piperidine]-2',4,6'-trione | 0.15 M, 38.6 grams | CC=1C=C2C(CCC3(C(NC(CC3)=O)=O)C2=CC1)=O | C15H15NO3
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
product | 1',6-dimethyl-2,3-dihydrospiro-[naphthalene-1(4H),3'-piperidine]-2',4,6'-trione | 32.5 grams, 80% | CN1C(C2(CCC1=O)CCC(C1=CC(=CC=C12)C)=O)=O | C16H17NO3
